US06927214B1
6,7-Dichloro-3-methyl-1H-quinoxalin-2-one (5 g, 22 mmol) (prepared as described in: Collins, J. L.; Dambek, P. J.; Goldstein, S. W.; Faraci, W. S. Bioorg. Med. Chem. Lett. 1992, 2, 915-8) was dissolved in a mixture of glacial acetic add (100 ml) and 98% sulfuric acid (10 ml). 4-Fluorobenzaldehyde (2.3 ml, 22 mmol) was added and the resulting mixture was stirred at reflux temperature for 3.5 hours. The mixture was allowed to cool to 85° C. and then poured onto ice (500 ml). The solid was filtered, washed with water and ethyl acetate and dried in vacuo at 30° C. overnight to afford 7.2 g (99%) of 6,7-dichloro-3-[2-(4-fluorophenyl)vinyl]-1H-quinoxalin-2-one.

reactant | 6,7-Dichloro-3-methyl-1H-quinoxalin-2-one | 22 mmol, 5 g | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)C | C9H6Cl2N2O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-Fluorobenzaldehyde | 22 mmol, 2.3 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 6,7-dichloro-3-[2-(4-fluorophenyl)vinyl]-1H-quinoxalin-2-one | 7.2 g, 99% | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)C=CC1=CC=C(C=C1)F | C16H9Cl2FN2O
